US06235925B1
Briguet, C. Freppel, J.-C. Richer and M. Zador (Can. J. Chem. 1974, 52, 3201) describe a process for the oxidation of cyclohexene with cerium ammonium nitrate in acetonitrile which contains 1% of water, and they obtain acetamido-2-cyclohexene. Here, the use of stoichiometric amounts of cerium ammonium nitrate stands in the way of industrial use. Y. Leblanc, R. Zamboni, M. A. Bernstein (J. Org. Chem. 1991, 56, 1971) describe an ene reaction of cyclohexene with bis-(2,2,2-trichloroethyl) azodicarboxylate at 155° C. which, after work-up, affords a yield of 70% of the desired tetrahydroaniline derivative.

reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | cerium ammonium nitrate | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | water | O | H2O
reactant | acetonitrile | C(C)#N | C2H3N
product | acetamido-2-cyclohexene | C(C)(=O)NC1C=CCCC1 | C8H13NO
